US09108936B2
To a stirred solution of 5-fluoro-3-methoxy-2-nitro-phenol (2.0 g, 10.6 mmol) in dimethylsulfoxide (25 ml) is added morpholine (9.2 ml, 106 mmol) at room temperature. The resulting mixture is heated at 100° C. for 2 h. After completion of reaction (monitored by TLC), the mixture is diluted with water (40 ml) and the aqueous layer is extracted with ethyl acetate (3×30 ml). The combined organic layers are washed with water (30 ml), brine (20 ml), dried over sodium sulfate and concentrated in vacuo. The crude product is purified by flash column chromatography (45% ethyl acetate/hexane) to yield 3-methoxy-5-morpholin-4-yl-2-nitro-phenol (0.71 g, 2.78 mmol, 26%).

reactant | 5-fluoro-3-methoxy-2-nitro-phenol | 10.6 mmol, 2.0 g | FC=1C=C(C(=C(C1)O)[N+](=O)[O-])OC | C7H6FNO4
reactant | morpholine | 106 mmol, 9.2 ml | N1CCOCC1 | C4H9NO
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | water | 40 ml | O | H2O
product | 3-methoxy-5-morpholin-4-yl-2-nitro-phenol | 2.78 mmol, 0.71 g, 26% | COC=1C(=C(C=C(C1)N1CCOCC1)O)[N+](=O)[O-] | C11H14N2O5
